US04913996
The compound of Structure (I-C) was prepared as follows. 2-carboxyanthraquinone was reacted with oxalyl chloride in dichloromethane (catalyzed by dimethylformamide) to yield 2-chlorocarbonylanthraquinone, which was then reacted with 1-hexanol in tetrahydrofuran (in the presence of triethylamine) to yield 2-n-hexoxycarbonylanthraquinone, which was then treated in a manner similar to Preparation A to prepare the Structure (I-C) compound with a yield of 50%. Structure was confirmed by IR and NMR spectroscopy.

reactant | 2-carboxyanthraquinone | C(=O)(O)C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C15H8O4
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-chlorocarbonylanthraquinone | ClC(=O)C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C15H7ClO3
